US06908913B2
b) 7-(Thiazol-5-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
The title compound (260 mg) was prepared in substantially the same manner as in step c) of Synthesis Example 1, except that 187 mg of 7-(thiazol-5-yl)carbonylimidazo[5,1-b]thiazole, 0.235 ml of tri-n-butylstannyl chloride, and 1.2 ml of a 1.0 N lithium bis(trimethylsilyl)amide/THF solution were used as the starting materials.

reactant | 7-(thiazol-5-yl)carbonylimidazo[5,1-b]thiazole | 187 mg | S1C=NC=C1C(=O)C=1N=CN2C1SC=C2 | C9H5N3OS2
reactant | tri-n-butylstannyl chloride | 0.235 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithium bis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
product | 7-(Thiazol-5-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 260 mg | S1C=NC=C1C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H4N3OS2.3C4H9.Sn/c13-8(6-3-10-5-15-6)7-9-12(4-11-7)1-2-14-9;3*1-3-4-2;/h1,3-5H;3*1,3-4H2,2H3;
